US06833456B2
(iii) 3,4-cis-Dimethoxy-pyrrolidine
To a stirred solution of 3,4-cis-dimethoxy-pyrrolidine-1-carboxylic acid benzyl ester (16.95 g, 63.88 mmol) in 150 mL MeOH was added 1.3 g Pd on C (10% w/w). The mixture was stirred under H2 balloon at room temperature for 3 hours and filtered through celite. The filtrate was concentrated in vacuo, re-dissolved in CH2Cl2 and dried over Na2SO4. The solution was concentrated to give 8.3 g product as yellow oil (99% yield). 1H NMR (300 MHz, CDCl3) δ 3.80 (m, 2H), 3.47 (bs, 2H), 3.41 (s, 6H), 3.01 (bs, 2H).

reactant | 3,4-cis-dimethoxy-pyrrolidine-1-carboxylic acid benzyl ester | 63.88 mmol, 16.95 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)OC)OC | C14H19NO4
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd | 1.3 g | [Pd] | Pd
product | 3,4-cis-Dimethoxy-pyrrolidine | 8.3 g, 99% yield | CO[C@@H]1CNC[C@@H]1OC | C6H13NO2
